US06824892B2
(8) Synthesis of 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(chloromethyl)benzene
In a single-neck flask, 1.2 g (2.8×10−3 mol) of 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(hydroxymethyl) benzene synthesized in the above step (7) was dissolved in 250 ml of absolute chloroform, and 0.26 ml (2.8×10−3 mol) of POCl3 and 0.21 ml (2.8×10−3 mol) of DMF stirred in 150 ml of chloroform were slowly added. The reaction was left to stand at room temperature for 12 hours, and then the reaction solution was washed several times with water, and water in the organic layer was removed with MgSO4 and vacuum-distilled. The oil so produced was purified by column chromatography using a hexane developing solution. Yield: 53% (0.7 g).

reactant | 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(hydroxymethyl) benzene | 2.8×10−3 mol, 1.2 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C=C(C(=C1)CO)OCC(CCCC)CC)CO | C28H33NO3
reactant | POCl3 | 2.8×10−3 mol, 0.26 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 2.8×10−3 mol, 0.21 ml | CN(C)C=O | C3H7NO
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(chloromethyl)benzene | Yield: 53% | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C=C(C(=C1)CCl)OCC(CCCC)CC)CCl | C28H31Cl2NO
